US07056932B2
6-Amino-2,3-dihydro-isoindol-1-one (0.810 g, CAS 675109-45-2) was dissolved in 12 ml of acetonitrile and treated successively with sodium iodide (2.458 g, 3 eq.), 1,5-dibromopentane (1.11 ml, 1.5 eq.), and N-ethyl-diisopropylamine (2.88 ml, 3.1 eq.), and the mixture was stirred at 75° C. for 20 h. Pouring onto crushed ice, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by crystallization from hexane/ethyl acetate yielded 6-piperidin-1-yl-2,3-dihydro-isoindol-1-one (0.669 g) as light brown crystals, MS 217.3 ([M+H]+).

reactant | 6-Amino-2,3-dihydro-isoindol-1-one | 0.810 g | NC1=CC=C2CNC(C2=C1)=O | C8H8N2O
reactant | sodium iodide | 2.458 g, 3 eq. | [I-].[Na+]
reactant | 1,5-dibromopentane | 1.11 ml, 1.5 eq. | BrCCCCCBr | C5H10Br2
reactant | N-ethyl-diisopropylamine | 2.88 ml, 3.1 eq. | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 6-piperidin-1-yl-2,3-dihydro-isoindol-1-one | 0.669 g | N1(CCCCC1)C1=CC=C2CNC(C2=C1)=O | C13H16N2O
